US04247543
(a) Boc-MePhe-Leu-OMe
To a solution of 28 g of Boc-MePhe-OH and 11.2 ml of N-methylmorpholine in 400 ml of THF are added 13.2 ml of chloroformic acid isobutyl ester at -25°. After 5 minutes, at -25°, 18 g of HCl-Leu-OMe and 11.2 ml of N-methylmorpholine in 200 ml of DMF are added to the solution. After 2 hours, at -15°, the mixture is diluted with ethylacetate, washed with dilute aqueous KHCO3 solution, hydrochloric acid, water, dried and the solvent removed under vacuum to yield the title compound as a viscous oil.

reactant | Boc-MePhe-OH | 28 g | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | N-methylmorpholine | 11.2 ml | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutyl ester | 13.2 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | HCl-Leu-OMe | 18 g | N([C@@H](CC(C)C)C(=O)OC)Cl | C7H14ClNO2
reactant | N-methylmorpholine | 11.2 ml | CN1CCOCC1 | C5H11NO
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Boc-MePhe-Leu-OMe | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC)C | C22H34N2O5
